US07241791B2
Step 1: 3-chloro-2-fluoro-N-methoxy-N-methylbenzamide
Prepared according to Method A step A from 3-chloro-2-fluorobenzoic acid (3.0 g, 17.2 mmol), N,O-dimethylhydroxylamine hydrochloride (2.34 g, 24 mmol), oxalyl chloride (1.5 mL, 17.2 mmol) and 5 mL of pyridine to give the title compound (3.3 g) as an oil. Used as is in the next prep

reactant | 3-chloro-2-fluorobenzoic acid | 17.2 mmol, 3.0 g | ClC=1C(=C(C(=O)O)C=CC1)F | C7H4ClFO2
reactant | N,O-dimethylhydroxylamine hydrochloride | 24 mmol, 2.34 g | Cl.CNOC
reactant | oxalyl chloride | 17.2 mmol, 1.5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 3-chloro-2-fluoro-N-methoxy-N-methylbenzamide | 3.3 g | ClC=1C(=C(C(=O)N(C)OC)C=CC1)F | C9H9ClFNO2
